US07612201B2
A solution of lithium aluminium hydride (1M in ether, 0.3 ml, 0.3 mmol) was added dropwise to a stirred solution of 4-[3-(2,4-Bis-benzyloxy-5-chloro-phenyl)-5-isobutoxycarbonyl-1-(toluene-4-sulfonyl)-1H-pyrazol-4-yl]-piperazine-1-carboxylic acid tert-butyl ester (90 mg, 0.11 mmol) [prepared by use of the lithiation chemistry in the preceding example] in anhydrous diethyl ether (2 ml) at room temperature, under a nitrogen atmosphere. The suspension was stirred 2 h then sodium hydroxide solution (1M, 3 drops) was added, followed by methanol (0.5 ml). The mixture was partitioned between water (30 ml) and ethyl acetate (2×20 ml), and the combined organic phases were dried over magnesium sulphate, then concentrated in vacuo to give 4-[3-(2,4-Bis-benzyloxy-5-chloro-phenyl)-5-hydroxymethyl-1-(toluene-4-sulfonyl)-1H-pyrazol-4-yl]-piperazine-1-carboxylic acid tert-butyl ester (58 mg, 88%)

reactant | lithium aluminium hydride | 0.3 mmol, 1M, 0.3 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-[3-(2,4-Bis-benzyloxy-5-chloro-phenyl)-5-isobutoxycarbonyl-1-(toluene-4-sulfonyl)-1H-pyrazol-4-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.11 mmol, 90 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C(=NN(C1C(=O)OCC(C)C)S(=O)(=O)C1=CC=C(C=C1)C)C1=C(C=C(C(=C1)Cl)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C44H49ClN4O8S
reactant | methanol | 0.5 ml | CO | CH4O
solvent | diethyl ether | 2 ml | C(C)OCC | C4H10O
catalyst | sodium hydroxide | 1M, 3 drops | [OH-].[Na+]
product | 4-[3-(2,4-Bis-benzyloxy-5-chloro-phenyl)-5-hydroxymethyl-1-(toluene-4-sulfonyl)-1H-pyrazol-4-yl]-piperazine-1-carboxylic acid tert-butyl ester | 58 mg, 88% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C(=NN(C1CO)S(=O)(=O)C1=CC=C(C=C1)C)C1=C(C=C(C(=C1)Cl)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C40H43ClN4O7S
